US06194406B1
Combine tetrazole (0.45 g, 6.42 mmol) and dimethylformamide (6 mL). Cool in an ice bath and add sodium hydride (0.26 g, 60% i oil, 6.5 mmol). After 30 minutes, warm to ambient temperature. Add a solution of methyl 2-methoxy-5-chloromethylbenzoate (1.13 g, 4.12 mmol) in dimethylformamide (10 (mL). Heat to 75° C. After 5.5 hours, partition the reaction mixture between water and ethyl acetate. Extract the organic layer with water, dry over Na2SO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 7/3 hexane/ethyl acetate to give methyl 2-methoxy-5-(1H-tetrazol-1-ylmethyl)benzoate: Rf=0.67 (silica gel, ethyl acetate).

reactant | tetrazole | 6.42 mmol, 0.45 g | N1N=NN=C1 | CH2N4
reactant | sodium hydride | 6.5 mmol, 0.26 g | [H-].[Na+]
reactant | methyl 2-methoxy-5-chloromethylbenzoate | 4.12 mmol, 1.13 g | COC1=C(C(=O)OC)C=C(C=C1)CCl | C10H11ClO3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | methyl 2-methoxy-5-(1H-tetrazol-1-ylmethyl)benzoate | COC1=C(C(=O)OC)C=C(C=C1)CN1N=NN=C1 | C11H12N4O3
